US06734179B2
To a solution of 0.35 g (0.97 mMol) 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester in 20 ml THF were added 0.365 ml ethyl diisopropyl amine and 0.2 g (1.10 mMol) 4-(2-chloromethyl)-isonicotinic acid chloride, dissolved in 10 ml dichloro methane. The reaction mixture was stirred at room temperature for 72 h. Then 5 ml methanol were added. The solvent was evaporated to dryness, the residue taken up in dichloro methane and washed with water and brine. The organic phase was dried over sodium sulfate and evaporated to dryness in vacuo. The residue was subjected to column chromatography (ethyl acetate) to yield 0.32 g (69%) of 4-{4-methoxy-2-[(2-methyl-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a dark brown solid. ES-MS m/e (%): 481 ([M+H]+, 100).

reactant | 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.97 mMol, 0.35 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)N)OC | C18H23N3O3S
reactant | ethyl diisopropyl amine | 0.365 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanol | 5 ml | CO | CH4O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | dichloro methane | 10 ml | ClCCl | CH2Cl2
product | 4-{4-methoxy-2-[(2-methyl-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.32 g, 69% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC=C2)C)OC | C25H28N4O4S
